US08106236B2
A mixture of trifluoro-methanesulfonic acid 5-[1-(4-benzyl-2-oxo-oxazolidine-3-carbonyl)-3-methyl-butyl]-4′-trifluoromethyl-biphenyl-3-yl ester (4.03 g, 6.27 mmol), 4-(trifluoromethyl)phenylboronic acid (1.34 g, 7.05 mmol), 1,2-dimethoxyethane (24 mL) and aqueous Na2CO3 (2 M, 3.2 mL, 6.4 mmol) was stirred while purging N2 at room temperature for 10 min. To this system was added Pd(Ph3)4 (1.45 g, 1.25 mmol) and heated to reflux (95° C.) for 1 h. The red-brown mixture was diluted with EtOAc (50 mL) and washed with saturated aqueous NaHCO3 solution (3×50 mL) and brine (2×50 mL). The organic fraction was dried (Na2SO4) and concentrated in vacuo. The crude mixture was purified by ISCO column chromatography to obtain 4-benzyl-3-[2-(4,4″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-5′-yl)-4-methyl-pentanoyl]-oxazolidin-2-one (3.2 g, 79%).

reactant | trifluoro-methanesulfonic acid 5-[1-(4-benzyl-2-oxo-oxazolidine-3-carbonyl)-3-methyl-butyl]-4′-trifluoromethyl-biphenyl-3-yl ester | 6.27 mmol, 4.03 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(=O)C(CC(C)C)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C30H27F6NO6S
reactant | 4-(trifluoromethyl)phenylboronic acid | 7.05 mmol, 1.34 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 1,2-dimethoxyethane | 24 mL | COCCOC | C4H10O2
reactant | Na2CO3 | 6.4 mmol, 2 M, 3.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-benzyl-3-[2-(4,4″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-5′-yl)-4-methyl-pentanoyl]-oxazolidin-2-one | 3.2 g, 79% | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(C)C)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C36H31F6NO3
